US03941841
4-Cis-2,6-Dimethyl-8-(4-Oxo-2,6,6-Trimethyl-2-Cyclohexenylidene)-1,4,6-Octatrien-3-ol
6.5 g. of purified 2,6-dimethyl-8-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-1,6-octadien-4-yn-3-ol was hydrogenated with 1 g. of Lindlar catalyst (a palladium-clacium carbonate catalyst deactivated by the addition of lead and quinoline) in benzene. 700 ml. of hydrogen was consumed within 4 hours. After this period, the catalyst was removed from the solution and the solution was washed with water, then dried and evaporated under reduced pressure. The product was purified by chromatography on 200 g. of silica gel G using petroleum ether and ethyl ether solvent in a volume ratio of 1 to 3. The material was identified as 4-cis-2,6-dimethyl-8-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-1,4,6-octatrien-3-ol).

reactant | 2,6-dimethyl-8-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-1,6-octadien-4-yn-3-ol | CC(=C)C(C#CC(=CC=C1C(=CC(CC1(C)C)=O)C)C)O | C19H24O2
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Cis-2,6-Dimethyl-8-(4-Oxo-2,6,6-Trimethyl-2-Cyclohexenylidene)-1,4,6-Octatrien-3-ol | CC(=C)C(\C=C/C(=CC=C1C(=CC(CC1(C)C)=O)C)C)O | C19H26O2
